US08383821B2
tert-Butyl 4-(((5-amino-4′-cyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
tert-Butyl 4-((3-amino-5-bromobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (220.0 mg, 0.46 mmol), 4-cyanophenylboronic acid (273.0 mg, 1.86 mmol), and tetrakis(triphenylphosphine) palladium(0) (71.7 mg, 0.046 mmol) were combined in dry tetrahydrofuran (5 mL) in a microwave tube and sealed. The mixture was flushed with nitrogen. To this was added potassium hydroxide (1 N in water, 1.4 mL, 1.4 mmol). The mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated and purified by flash chromatography on silica gel (25% ethyl acetate/hexanes) to afford 140.0 mg (61%). LC/MS (HPLC method 3): tR=2.85 min, 498.24 (MH)+.

reactant | tert-Butyl 4-((3-amino-5-bromobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.46 mmol, 220.0 mg | NC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)Br | C24H31BrN2O3
reactant | 4-cyanophenylboronic acid | 1.86 mmol, 273.0 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | potassium hydroxide | 1.4 mmol, 1 N, 1.4 mL | [OH-].[K+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.046 mmol, 71.7 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-Butyl 4-(((5-amino-4′-cyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | NC=1C=C(C=C(C1)C1=CC=C(C=C1)C#N)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C31H35N3O3
